plaintext
* SPICE Netlist
VDD VDD 0 DC 0
V1 N1 0 DC 2
V2 N2 0 DC 1
Vin N3 0

M1 Vout N3 N2 N2 NMOS
R1 VDD Vout 1k

* Components
VDD VDD 0 DC 5
V1 N1 0 DC 2
Vin N3 0

* Analysis
.op
.end